US07601850B2
C. 5-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carboxylic acid methyl ester
3-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol, Example 51B (0.50 g, 1.34 mmol) is dissolved in THF (10 mL). The solution is cooled to 0° C., treated with nBuLi (1.6 M, 1.8 mL, 2.95 mmol). It is stirred at 0° C. for 20 min, and methyl chloroformate (113 μL, 1.47 mmol) is added. The reaction is stirred at 0° C. for 10 min and RT for 20 m before it is quenched with satd NH4Cl (5 mL). It is diluted with H2O (10 mL), treated with 0.1 M HCl (10 ml) and extracted with EtOAc (3×15 mL), dried and concentrated. The crude product is purified by chromatography to give the titled compound (0.24 g, 0.56 mmol, 41%). 1H NMR (CD3C3), δ 0.71 (t, J=7.1 Hz, 6H), 0.95 (t, J=7.9 Hz, 6H), 1.64-1.72 (m, 4H), 2.11 (q, J=7.1 Hz, 4H), 2.21 (s, 3H), 2.49 (s, 3H), 3.81 (s, 3H), 6.61 (s, 1H), 6.72 (d, J=8.4 Hz, 1H), 6.85-7.01 (m, 2H). LC/MS (m/z): calcd for C25H40NO4S (M+NH4)+: 450.3; found: 450.3.

reactant | 3-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(OCC(CC)(CC)O)C=C1)C | C23H34O2S
reactant | nBuLi | 2.95 mmol, 1.6 M, 1.8 mL | [Li]CCCC
reactant | methyl chloroformate | 1.47 mmol, 113 μL | ClC(=O)OC | C2H3ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carboxylic acid methyl ester | 0.56 mmol, 0.24 g, 41% | COC(=O)C=1SC(=CC1C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)CC | C25H36O4S
